US08236808B2
Step 1: ((S)-5-Benzyloxycarbonylamino-1-{[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-methyl}-pentyl)-carbamic acid tert-butyl ester
To a solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid (0.39 g, 2.05 mmol) and HATU (0.78 g, 2.05 mmol) in DMF (10 mL) is added N-methylmorpholine (0.83 g, 8.22 mmol) followed by ((S)-1-aminomethyl-5-benzyloxycarbonylamino-pentyl)-carbamic acid tert-butyl ester (prepared according to the procedure described in WO1997/01204 page 20) (750 mg, 2.05 mmol). The resulting solution is stirred at RT for 18 h and then concentrated in vacuo to afford an orange oil. The oil is dissolved in MeOH (10 mL) and allowed to stand at RT after which time a cream precipitate forms that is collected by filtration and dried under vacuum to yield the title compound. [M+H]+ 536.

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid | 2.05 mmol, 0.39 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)O | C5H5ClN4O2
reactant | HATU | 2.05 mmol, 0.78 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 8.22 mmol, 0.83 g | CN1CCOCC1 | C5H11NO
reactant | ((S)-1-aminomethyl-5-benzyloxycarbonylamino-pentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)CN)=O | C19H31N3O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 10 mL | CO | CH4O
product | ((S)-5-Benzyloxycarbonylamino-1-{[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-methyl}-pentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)CNC(=O)C1=NC(=C(N=C1N)N)Cl)=O | C24H34ClN7O5
